US07465815B2
6-Bromo-3-(4-isopropylphenyl)-4,5,7-trimethyl-2,3-dihydro-1-benzofuran
Using 3-bromo-6-(2-hydroxy-1-(4-isopropylphenyl)ethyl)-2,4,5-trimethylphenol synthesized in Reference Example 234, the title compound was synthesized in the same manner as in Reference Example 13. Yield 57%. Melting point: 56-57° C. (hexane-ethyl acetate).

reactant | 3-bromo-6-(2-hydroxy-1-(4-isopropylphenyl)ethyl)-2,4,5-trimethylphenol | BrC=1C(=C(C(=C(C1C)C)C(CO)C1=CC=C(C=C1)C(C)C)O)C | C20H25BrO2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 6-Bromo-3-(4-isopropylphenyl)-4,5,7-trimethyl-2,3-dihydro-1-benzofuran | Yield 57% | BrC1=C(C2=C(C(CO2)C2=CC=C(C=C2)C(C)C)C(=C1C)C)C | C20H23BrO
